US06518423B1
Diethyl(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)phosphonate
To 2 ml of triethyl phosphite was added 0.374 g of 8-chloromethyl-10H-pyrazino[2,3-b][1,4]benzothiazine and the resulting mixture was heated to 160° C. for 3 hours. Then the reaction mixture was brought back to room temperature and diethyl ether (10 ml) and n-hexane (20 ml) were added thereto. The precipitate was taken up by filtration and washed several times with n-hexane to thereby give 0.413 g of the title compound as a yellow powder.

reactant | triethyl phosphite | 2 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | 8-chloromethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 0.374 g | ClCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H8ClN3S
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | n-hexane | 20 ml | CCCCCC | C6H14
product | Diethyl(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)phosphonate | 0.413 g | C(C)OP(OCC)(=O)C=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C14H16N3O3PS
